US04168248
PREPARATION OF 3-METHYLNONAN-3-YL-ISOBUTYRATE
40 G. (0.25 mole) of 3-methylnonan-3-ol, 80 g. of isobutyric anhydride and 600 ml. of xylene were mixed and the formed isobutyric acid was removed as an azeotrope with xylene by distillation through a 14" Vigreux column. The procedure required about 9 hours. The temperature of the vapor was 116°-139° C. and the temperature of the flask was 147°-160° C. during the distillation. The excess isobutyric anhydride and solvent were removed fom the reaction product by distillation at steam bath temperature under ejector vacuum through a 14" Vigreux column. To the remaining crude reaction product was added 75 ml. of benzene and the resulting solution was washed successively with 100 ml. of water, 100 ml. of sodium carbonate solution, 100 ml. of sodium bicarbonate solution and 100 ml. of water. The reaction product was fractionated through a 14" Vigreux column. The following fractions were obtained:

reactant | 3-methylnonan-3-ol | 0.25 mole | CC(CC)(CCCCCC)O | C10H22O
reactant | isobutyric anhydride | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3-METHYLNONAN-3-YL-ISOBUTYRATE | CC(CC)(CCCCCC)OC(C(C)C)=O | C14H28O2
